US06897224B2
2-(Hydroxymethyl)-5-nitroquinoline
700 mg (3.46 mmol) of 5-nitroquinoline-2-carbaldehyde are dissolved in 13 ml of methanol and 7.0 ml of tetrahydrofuran and mixed at 0° C. with 523 mg (13.9 mmol) of sodium borohydride. After 5 hours, the reaction is brought to a halt by adding water. The solvent is removed in a vacuum, the residue is taken up in dichloromethane and water, the aqueous phase is extracted with dichloromethane, and the combined organic phases are dried on sodium sulfate. After the solvent is removed, and after purification on silica gel with hexane-ethyl acetate (0-100%), 390 mg (55% of theory) of the product is obtained.

reactant | 5-nitroquinoline-2-carbaldehyde | 3.46 mmol, 700 mg | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)C=O | C10H6N2O3
reactant | tetrahydrofuran | 7.0 ml | O1CCCC1 | C4H8O
reactant | sodium borohydride | 13.9 mmol, 523 mg | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 13 ml | CO | CH4O
product | 2-(Hydroxymethyl)-5-nitroquinoline | OCC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H8N2O3
